US07384945B2
2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid pentylamide
0.16 mmol of 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid were dissolved in 1 ml THF with 1 eq. DIC. After 15 min 1.5 eq of n-pentylamine were added and the reaction stirred at room temperature for 16 h. The crude material was purified via reversed phase preparative HPLC. MS(ISP): 512.3 (M+H)+.

reactant | 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid | 0.16 mmol | O(C1=CC=CC=C1)CC1=NC2=C(N1CC1=CC=C(C=C1)OC(F)(F)F)C=CC(=C2)C(=O)O | C23H17F3N2O4
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | n-pentylamine | 1.5 eq | C(CCCC)N | C5H13N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid pentylamide | C(CCCC)NC(=O)C1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C28H28F3N3O3
